US05376663
17-Allyl-1-hydroxy-12-[2-(3,4-dimethoxycyclohexyl)-1-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacosa-14,18-diene-2,3,10,16-tetraone
A stirred solution of 17-Allyl-1,14-dihydroxy-12-[2-(3,4-dimethoxycyclohexyl)-1-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (10 mg, prepared by methylation of macrolide FR 900506), in toluene (5 ml) containing a trace of tosic acid was heated on a steam bath for 5 minutes. Removal of solvent in vacuo and chromatography on silica eluting with ethyl acetate gave the title compound as an oil (8 mg).

reactant | 17-Allyl-1,14-dihydroxy-12-[2-(3,4-dimethoxycyclohexyl)-1-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 10 mg | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC)OC)C)C)O)=O | C45H71NO12
reactant | tosic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 17-Allyl-1-hydroxy-12-[2-(3,4-dimethoxycyclohexyl)-1-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacosa-14,18-diene-2,3,10,16-tetraone | 8 mg | C(C=C)C1C(C=CC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC)OC)C)C)=O | C45H69NO11
